US04539149
(a) Benzyl 6β-(4-nitrobenzylideneamino)penam-3-carboxylate
Benzyl 6β-aminopenam-3-carboxylate (1.11 g, 4 m mol) in dry dichloromethane (4 ml) with trimethylorthoformate (0.42 g, 0.44 ml, 4 m mol) was treated with 4-nitrobenzaldehyde (0.61 g, 0.4 m mol) in dry methanol (10 ml) at room temperature for 1.5 h. The mixture was then evaporated to dryness, triturated with ethanol and the solid material collected by filtration. Renystallisation from ethanol/ethylacetate gave almost colourless needles (1.2 g 74%); m.p. 95°-96° C.; νmax (CH2Cl2) 1795, 1750, 1530, 1360 cm-1 ; δ(CDCl3) 8.68 (1H, d, J 2 Hz, CH=N), 8.27 and 7.94 (4H, 2d, J 9 Hz), nitrophenyl), 7.38 (5H, s, phenyl), 5.51 (1H, d, J 4 Hz, 5-H), 5.45 (1H, dd, J 2 Hz and 4 Hz, 6-H), 5.23 (2H, s, CH2Ph), 4.93 (1H, t, J 5.5 Hz, 3-H) and 3.45 (2H, d, J 5.5 Hz, 2-H).

reactant | Benzyl 6β-aminopenam-3-carboxylate | 1.11 g | N[C@H]1[C@@H]2N(C(CS2)C(=O)OCC2=CC=CC=C2)C1=O | C13H14N2O3S
reactant | trimethylorthoformate | 0.44 ml, 0.42 g | COC(OC)OC | C4H10O3
reactant | 4-nitrobenzaldehyde | 0.61 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Benzyl 6β-(4-nitrobenzylideneamino)penam-3-carboxylate | [N+](=O)([O-])C1=CC=C(C=N[C@H]2[C@@H]3N(C(CS3)C(=O)OCC3=CC=CC=C3)C2=O)C=C1 | C20H17N3O5S
